US04406829
7.5 g of ethyl N,N'-diisopropyl-carbamimidate were added to a solution of 7.8 g of (1R,cis) 2,2-dimethyl-3-cyclopentylidenemethyl-cyclopropane-1-carboxylic acid in 20 ml of ethyl acetate and the mixture was refluxed for 2 hours and was filtered. The filtrate was evaporated to dryness and the 13 g of residue were chromatographed over silica gel. Elution with a 7-3 cyclohexane-ethyl acetate mixture and the fraction with a Rf=0.45 was evaporated to dryness under reduced pressure to obtain 1.4 g of ethyl (1R,cis) 2,2-dimethyl-3-cyclopentylidenemethyl-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =+76°±2° (c=1% in ethanol).

reactant | ethyl N,N'-diisopropyl-carbamimidate | 7.5 g | C(C)(C)NC(OCC)=NC(C)C | C9H20N2O
reactant | (1R,cis) 2,2-dimethyl-3-cyclopentylidenemethyl-cyclopropane-1-carboxylic acid | 7.8 g | CC1([C@@H]([C@@H]1C=C1CCCC1)C(=O)O)C | C12H18O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | ethyl (1R,cis) 2,2-dimethyl-3-cyclopentylidenemethyl-cyclopropane-1-carboxylate | 1.4 g | CC1([C@@H]([C@@H]1C=C1CCCC1)C(=O)OCC)C | C14H22O2
